US08017607B2
A mixture of rac-4-{[(2S,3R,4S)-4-(3-chloro-2-fluoro-phenyl)-3-(4-chloro-2-fluoro-phenyl)-3-cyano-2-(2,2-dimethyl-propyl)-pyrrolidine-1-carbonyl]-amino}-benzoic acid ethyl ester (0.2 g, 0.32 mmol) in methanol (5 mL) was added an aqueous solution (1 N) of NaOH (5 mL, 5 mmol). The reaction mixture was stirred at room temperature for 20 h. The “pH” of the mixture was adjusted to 5-6 by diluted aqueous HCl solution. The mixture was partitioned between EtOAc and water. The organic layer was separated, and the aqueous layer was extracted with ethyl acetate. The organic layers were combined, washed with water, brine, dried over MgSO4, and concentrated. The residue was purified by chromatography (75% EtOAc in hexanes) to give rac-4-{[(2S,3R,4S)-4-(3-chloro-2-fluoro-phenyl)-3-(4-chloro-2-fluoro-phenyl)-3-cyano-2-(2,2-dimethyl-propyl)-pyrrolidine-1-carbonyl]amino}-benzoic acid as a white solid (0.1 g, 50%). HRMS (ES+) m/z Calcd for C30H27Cl2F2N3O3+H [(M+H): 586.1471; Found: 586.1473.

reactant | rac-4-{[(2S,3R,4S)-4-(3-chloro-2-fluoro-phenyl)-3-(4-chloro-2-fluoro-phenyl)-3-cyano-2-(2,2-dimethyl-propyl)-pyrrolidine-1-carbonyl]-amino}-benzoic acid ethyl ester | 0.32 mmol, 0.2 g | C(C)OC(C1=CC=C(C=C1)NC(=O)N1[C@H]([C@]([C@H](C1)C1=C(C(=CC=C1)Cl)F)(C#N)C1=C(C=C(C=C1)Cl)F)CC(C)(C)C)=O | C32H31Cl2F2N3O3
reactant | NaOH | 5 mmol, 1 N, 5 mL | [OH-].[Na+]
reactant | HCl | Cl | ClH
solvent | methanol | 5 mL | CO | CH4O
product | rac-4-{[(2S,3R,4S)-4-(3-chloro-2-fluoro-phenyl)-3-(4-chloro-2-fluoro-phenyl)-3-cyano-2-(2,2-dimethyl-propyl)-pyrrolidine-1-carbonyl]amino}-benzoic acid | 0.1 g, 50% | ClC=1C(=C(C=CC1)[C@@H]1[C@@]([C@@H](N(C1)C(=O)NC1=CC=C(C(=O)O)C=C1)CC(C)(C)C)(C#N)C1=C(C=C(C=C1)Cl)F)F | C30H27Cl2F2N3O3
